US04061656
0.68 G. (18 mmol) of sodium borohydride was added in three portions to a solution of 10.08 g. (72 mmol) of 2,4-dimethylthiophene-3-carboxaldehyde in 120 ml. of ethanol. After 15 min., the reaction mixture was poured into water, extracted with ether, dried and the solvent evaporated. The resulting residue was recrystallized from hexane to yield 2,4-dimethyl-3-hydroxymethylthiophene, m.p. 80°-81° C.

reactant | sodium borohydride | 18 mmol | [BH4-].[Na+]
reactant | 2,4-dimethylthiophene-3-carboxaldehyde | 72 mmol | CC=1SC=C(C1C=O)C | C7H8OS
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,4-dimethyl-3-hydroxymethylthiophene | CC=1SC=C(C1CO)C | C7H10OS
